US07893060B2
4-Benzylamino-2-methyl-thiazole-5-carboxylic acid ethyl ester
To a solution of 2-methyl-4-(toluene-4-sulfonyloxy)-thiazole-5-carboxylic acid ethyl ester (2.0 g, 5.865 mmol) in 1,4-dioxane (50 mL) was added benzylamine (1.92 mL, 17.6 mmol) and the mixture was heated at 120° C. for 6 h. The reaction mixture was cooled to RT and partitioned between EtOAc and an aqueous solution of HCl (1 M). The organic layer was isolated, washed with brine, then dried (MgSO4) and concentrated in vacuo. The resultant residue was purified by column chromatography to give the title compound as a yellow solid (0.80 g, 49%).

reactant | 2-methyl-4-(toluene-4-sulfonyloxy)-thiazole-5-carboxylic acid ethyl ester | 5.865 mmol, 2.0 g | C(C)OC(=O)C1=C(N=C(S1)C)OS(=O)(=O)C1=CC=C(C=C1)C | C14H15NO5S2
reactant | benzylamine | 17.6 mmol, 1.92 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 4-Benzylamino-2-methyl-thiazole-5-carboxylic acid ethyl ester | 0.80 g, 49% | C(C)OC(=O)C1=C(N=C(S1)C)NCC1=CC=CC=C1 | C14H16N2O2S
